*cp_Tgate
****************************************
* Type     : hspice
* Tool     : AETHER-SE
* Date     : Thu Mar 23 13:50:57 2023
* User     : mujt
* Top Design : ChargePump/cp_Tgate/schematic
****************************************

****************************************
* Library : ChargePump
* Cell    : cp_Tgate
* View    : schematic
****************************************

**TopDesStart
MNM0 B ctl A vss n18 L=180n W=1.2u AD=324f AS=355.5f PD=1.74u PS=1.9425u M=16
MPM0 B ctl_n A vdd p18 L=180n W=2u AD=540f AS=592.5f PD=2.54u PS=2.8425u M=16
**TopDesEnd